US06436929B1
5-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-thiophene-2-carbonitrile was prepared, according to the procedure of Example 5 using 5-bromo-2-thiophenecarbonitrile and (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid, as an off-white solid: mp 264-266° C.; 1H-NMR (DMSO-d6) δ10.3 (s, 1H), 7.97 (d, 1H, J=7.9 Hz), 7.60-7.66 (m, 3H), 6.96 (d, 1H, J=8.1 Hz), 1.65 (s, 6H), MS (APCI) m/z 285 (M+H)+, 302 (M+NH4)+. Anal. Calc. For C15H12N2O2S: C, 63.36; H, 4.25; N, 9.85. Found: C, 63.01; H, 4.36; N, 9.39.

reactant | 5-bromo-2-thiophenecarbonitrile | BrC1=CC=C(S1)C#N | C5H2BrNS
reactant | (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
product | 5-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-thiophene-2-carbonitrile | CC1(C2=C(NC(O1)=O)C=CC(=C2)C2=CC=C(S2)C#N)C | C15H12N2O2S
